US07291744B2
Step a: Preparation of toluene-4-sulfonic acid (1R,2R)-2-benzyloxycarbonylamino-cyclohexylmethyl ester
A solution of (1R,2R)-(2-hydroxymethylcyclohexyl)-carbamic acid benzyl ester (6.0 g, 22.8 mmol) in pyridine (35 mL) was stirred on an ice-acetone bath and treated with toluene-4-sulfonyl chloride (4.78 g, 25.1 mmol). The reaction was stirred on an ice-water bath for 3 hours, then ice-cold water (35 mL) was added slowly. The mixture was diluted further with ice water and the resulting slurry was stirred at room temperature for 1 hour. The solid was collected by filtration, washed with water, and dried under vacuum to provide a white powdery solid (9.1 g, 96%).

reactant | (1R,2R)-(2-hydroxymethylcyclohexyl)-carbamic acid benzyl ester | 22.8 mmol, 6.0 g | C(C1=CC=CC=C1)OC(N[C@H]1[C@@H](CCCC1)CO)=O | C15H21NO3
reactant | toluene-4-sulfonyl chloride | 25.1 mmol, 4.78 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 35 mL | N1=CC=CC=C1 | C5H5N
product | toluene-4-sulfonic acid (1R,2R)-2-benzyloxycarbonylamino-cyclohexylmethyl ester | 9.1 g, 96% | C(C1=CC=CC=C1)OC(=O)N[C@H]1[C@@H](CCCC1)COS(=O)(=O)C1=CC=C(C=C1)C | C22H27NO5S
